US08580783B2
4-(2-amino-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl)-2-methoxy-phenol
To a solution of 5-(4-benzyloxy-3-methoxy-benzyl)-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine (0.04 g, 0.09 mmol) in MeOH (5 mL), prepared as described in example 34, were added 1,4-cyclohexadiene (0.1 mL, 1.40 mmol) and 10% Pd/C (0.02 g, 50% w/w). The reaction was heated at 70° C. for 1 h, then filtered through Celite® washing with MeOH and THF and evaporated, to afford the title compound (0.03 g, 97% yield).

reactant | 5-(4-benzyloxy-3-methoxy-benzyl)-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | 0.09 mmol, 0.04 g | C(C1=CC=CC=C1)OC1=C(C=C(CC2=NC=3C=C(C=CC3C=3N2N=C(N3)N)F)C=C1)OC | C24H20FN5O2
reactant | 1,4-cyclohexadiene | 1.40 mmol, 0.1 mL | C1=CCC=CC1 | C6H8
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | 4-(2-amino-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl)-2-methoxy-phenol | 0.03 g, 97% yield | NC1=NN2C(=NC=3C=C(C=CC3C2=N1)F)CC1=CC(=C(C=C1)O)OC | C17H14FN5O2
